US07846960B2
4-[2-(2,6-Dichloro-phenyl)-4-isopropyl-2H-pyrazol-3-ylmethoxy]-2-methyl-benzaldehyde
The title compound (1.51 g, 75%) is prepared essentially according to the preparation of 1-(2,6-Dichloro-phenyl)-4-isopropyl-5-[4-(2-methoxy-1-methyl-vinyl)-3-methyl-phenoxymethyl]-1H-pyrazole using 5-(4-bromo-3-methyl-phenoxymethyl)-1-(2,6-dichloro-phenyl)-4-isopropyl-1H-pyrazole. 1H NMR (400 MHz, CDCl3) δ 10.09 (s, 1H), 7.73 (s, 1H), 7.68 (d, 1H, J=8.8 Hz), 7.44-7.40 (m, 2H), 7.31 (dd, 1H, J=8.6, 7.3 Hz), 6.71 (dd, 1H, J=8.6, 2.4 Hz), 6.61 (d, 1H, J=2.4 Hz), 4.89 (s, 2H), 3.01 (sept, 1H, J=6.6 Hz), 2.60 (s, 3H), 1.32 (d, 6H, J=6.6 Hz).

reactant | 1-(2,6-Dichloro-phenyl)-4-isopropyl-5-[4-(2-methoxy-1-methyl-vinyl)-3-methyl-phenoxymethyl]-1H-pyrazole | ClC1=C(C(=CC=C1)Cl)N1N=CC(=C1COC1=CC(=C(C=C1)C(=COC)C)C)C(C)C | C24H26Cl2N2O2
reactant | 5-(4-bromo-3-methyl-phenoxymethyl)-1-(2,6-dichloro-phenyl)-4-isopropyl-1H-pyrazole | BrC1=C(C=C(OCC2=C(C=NN2C2=C(C=CC=C2Cl)Cl)C(C)C)C=C1)C | C20H19BrCl2N2O
product | 4-[2-(2,6-Dichloro-phenyl)-4-isopropyl-2H-pyrazol-3-ylmethoxy]-2-methyl-benzaldehyde | 1.51 g, 75% | ClC1=C(C(=CC=C1)Cl)N1N=CC(=C1COC1=CC(=C(C=O)C=C1)C)C(C)C | C21H20Cl2N2O2
